US06255285B1
To a solution of 146 mg (0.325 mmol) of Boc-Val-N-Me-Tyr(3-tBu)-NH2 in 2 ml of methylene chloride, 1 ml of TFA was added and the mixture was stirred at room temperature for 30 minutes. The solvent was distilled off under reduced pressure. To a solution of the resulting TFA salt of Val-N-Me-Tyr(3-tBu)-NH2 in 2 ml of DMF, 0.1 ml of TEA, 219 mg (0.348 mmol) of Z-Phe-ONp and 93.5 mg (0.765 mmol) of DMAP were added and the mixture was stirred at room temperature for 2 hours. The reaction mixture was diluted with ethyl acetate and washed first with saturated aqueous NaHCO3, then with water and finally with saturated brine. The organic layer was dried with anhydrous magnesium sulfate and concentrated under reduced pressure; the resulting residue was subjected to silica gel column chromatography (eluting solvent; ethyl acetate:n-hexane=1:1) to give Z-Phe-Val-N-Me-Tyr(3-tBu)-NH2 in the amount of 189 mg (92%).

reactant | Boc-Val-N-Me-Tyr(3-tBu)-NH2 | 0.325 mmol, 146 mg | N([C@@H](C(C)C)C(=O)N([C@@H](CC1=CC(=C(C=C1)O)C(C)(C)C)C(=O)N)C)C(=O)OC(C)(C)C | C24H39N3O5
reactant | Val-N-Me-Tyr(3-tBu)-NH2 | N[C@@H](C(C)C)C(=O)N([C@@H](CC1=CC(=C(C=C1)O)C(C)(C)C)C(=O)N)C | C19H31N3O3
reactant | Z-Phe-ONp | 0.348 mmol, 219 mg | C1=CC=C(C=C1)C[C@@H](C(=O)OC2=CC=C(C=C2)[N+](=O)[O-])NC(=O)OCC3=CC=CC=C3 | C23H20N2O6
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
solvent | TFA | 1 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
catalyst | DMAP | 0.765 mmol, 93.5 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Z-Phe-Val-N-Me-Tyr(3-tBu)-NH2 | N([C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](C(C)C)C(=O)N([C@@H](CC1=CC(=C(C=C1)O)C(C)(C)C)C(=O)N)C)C(=O)OCC1=CC=CC=C1 | C36H46N4O6
